US07723370B2
4-(5-p-methylphenyl-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonic acid
To a stirred suspension of p-hydrazino-benzenesulfonic acid (42 g, 0.223 mol) in ethanol (450 ml) 6N hydrochloric acid (74 ml, 0.446 mol) was added at room temperature, followed by addition of 4,4,4-trifluoro-1-(4-methyl-phenyl)-butane-1,3-dione (51.45 g, 0.223 mol). The obtained suspension was refluxed for 8 h, then concentrated in vacuo. The residue was dissolved in water (300 ml) and extracted with ethyl acetate (2×200 ml). The combined organic layers were washed with water (1×100 ml) and brine (1×100 ml), dried over MgSO4, decolorized, filtered and concentrated in vacuo. The obtained crystalline product was recrystallized from diisopropyl ether (300 ml) to yield 70.12 g (82%) of the title compound.

reactant | p-hydrazino-benzenesulfonic acid | 0.223 mol, 42 g | N(N)C1=CC=C(C=C1)S(=O)(=O)O | C6H8N2O3S
reactant | ethanol | 0.446 mol, 6N, 450 ml | C(C)O | C2H6O
reactant | 4,4,4-trifluoro-1-(4-methyl-phenyl)-butane-1,3-dione | 0.223 mol, 51.45 g | FC(C(CC(=O)C1=CC=C(C=C1)C)=O)(F)F | C11H9F3O2
product | 4-(5-p-methylphenyl-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonic acid | 70.12 g, 82% | CC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)O)C(F)(F)F | C17H13F3N2O3S
